US05635502
Dissolve N-(benzyloxycarbonyl)-L-serine methyl ester (63 mmol) in methylene chloride/cyclohexane (1:1, 600 mL). Add allyl trichloroacetimidate (26 g, 128 mmol) and trifluroromethanesulfonic acid (5 mL, 56.6 mmol). Stir at room temperature under a nitrogen atmosphere for 5 hours and dilute with methylene chloride. Wash with saturated aqueous sodium hydrogen carbonate, water, dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography to give N-(benzyloxycarbonyl)-O-2-propenyl-L-serine methyl ester.

reactant | N-(benzyloxycarbonyl)-L-serine methyl ester | 63 mmol | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C12H15NO5
reactant | allyl trichloroacetimidate | 128 mmol, 26 g | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
solvent | methylene chloride cyclohexane | 600 mL | C(Cl)Cl.C1CCCCC1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(benzyloxycarbonyl)-O-2-propenyl-L-serine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)COCC=C)=O | C15H19NO5
